US06423699B1
1-Benzyl-6bromo-1,3-dihydro-benzoimidazol-2-one
A mixture of 5-bromo-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester (2.5 g, 8 mmol), benzyl bromide (1.2 mL, 10 mmol), potassium carbonate (1.38 g, 10 mmol), and potassium iodide (50 mg) in anhydrous acetonitrile was heated at 80° C. under nitrogen for 1 hour. The reaction mixture was cooled to room temperature and treated with a saturated aqueous ammonium chloride solution (30 mL) and ethyl acetate (50 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine (30 mL) and dried (MgSO4). After removal of the solvent, the residue was taken up in trifluoroacetic acid (10 mL, neat) and the solution was stirred at room temperature under nitrogen for 10 minutes. The reaction solution was then treated with brine (30 mL) and ethyl acetate (50 mL). The organic layer was separated and dried (MgSO4). After removal of the solvent, the residue was applied to a pad of silica gel to afford the title compound as white solid (1.89, 78%): mp 245-246° C.; 1H-NMR (DMSO-d6) δ 11.2. (s, 1H), 7.37-7.27 (m, 6H), 7.13 (dd, 1H, J=8.25, 2.25 Hz), 6.95 (d, 1H, J=8.25 Hz), 5.0 (s, 2H); MS (ES) m/z 301((M−H)−, 50%), 303((M−H)−, 50%).

reactant | 5-bromo-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | 8 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1C(NC2=C1C=CC(=C2)Br)=O | C12H13BrN2O3
reactant | benzyl bromide | 10 mmol, 1.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-6bromo-1,3-dihydro-benzoimidazol-2-one | 78% | C(C1=CC=CC=C1)N1C(NC2=C1C=C(C=C2)Br)=O | C14H11BrN2O
